US04950686
(2) Tropolone copper complex
To a solution of tropolone (244 mg) in water is added a suspension of copper (II) hydroxide (98 mg) in water. The mixture is heated at 80° C. and methanol-chloroform is added thereto until the mixture becomes homogeneous. The solution is concentrated under reduced pressure. The depositing green crystals are collected by filtration and dissolved in hot chloroform. After removing impurities by filtration, to the filtrate is added methanol. The solution is cooled with ice. The precipitating green needles are recovered by filtration to give tropolone copper complex (203 mg).

reactant | tropolone | 244 mg | C1=CC=C(C(=O)C=C1)O | C7H6O2
reactant | copper (II) hydroxide | 98 mg | [OH-].[Cu+2].[OH-]
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | water | O | H2O
product | Tropolone copper | C1=CC=C(C(=O)C=C1)O.[Cu] | InChI=1S/C7H6O2.Cu/c8-6-4-2-1-3-5-7(6)9;/h1-5H,(H,8,9);
